US04599344
3-[2-(4-Chlorophenyl)ethyl]-1-heptyl-1-azoniabicyclo[2.2.2]-octane bromide
Combine 2.47 g (0.08 mole) of 3-[2-(4-Chlorophenyl)ethylidene]-1-heptyl-1-azoniabicyclo[2.2.2]octane bromide, 50 ml of acetic acid, 0.26 g of 10% palladium on carbon and 5 ml of water in a Parr bottle and place the mixture on a Parr hydrogenation apparatus. Pressurize the system to 40 p.s.i. and follow the reaction by the pressure drop in the system. Filter the catalyst, remove the solvent in vacuo and triturate the residue with several portions of diethyl ether. Suspend the crude solid in 100 ml of water and adjust the mixture with 10% sodium hydroxide solution to pH 10. Extract the mixture with three 50 ml portions of ether. Adjust the mixture to pH 2 with hydrobromic acid and extract with four 75 ml portions of methylene chloride. Dry the combined organic extracts over anhydrous sodium sulfate. Filter the drying agent and remove the solvent in vacuo. Recrystallize the residue from acetone to obtain the title compound.

reactant | 3-[2-(4-Chlorophenyl)ethylidene]-1-heptyl-1-azoniabicyclo[2.2.2]octane bromide | 0.08 mole, 2.47 g | [Br-].ClC1=CC=C(C=C1)CC=C1C[N+]2(CCC1CC2)CCCCCCC
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.26 g | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | 3-[2-(4-Chlorophenyl)ethyl]-1-heptyl-1-azoniabicyclo[2.2.2]-octane bromide | [Br-].ClC1=CC=C(C=C1)CCC1C[N+]2(CCC1CC2)CCCCCCC | InChI=1S/C22H35ClN.BrH/c1-2-3-4-5-6-15-24-16-13-20(14-17-24)21(18-24)10-7-19-8-11-22(23)12-9-19;/h8-9,11-12,20-21H,2-7,10,13-18H2,1H3;1H/q+1;/p-1
